***********
* REVISION 1 29-NOV-2005
* BEGIN PA86 BERKELEY MODEL
*
* BEGIN NOTES PA86 MODEL
*
* USE PA86 PSPICE MODEL FOR PSPICE,
* PSPICE DERIVED, TOPSPICE,
* AND HSPICE SIMULATORS.
*
* USE PA86 BERKELEY MODEL FOR BERKELEY
* SPICE 3X.X DERIVED SIMULATORS.
*
* THE PA86 MODEL IS A SUBCIRCUIT
* AND ALSO CALLS ONE MORE LEVEL
* OF SUBCIRCUITS, THUS IT WILL
* USE TWO LEVELS OF SUBCIRCUIT.
*
* MODEL TEMPERATURE RANGE IS
* -55 TO +150 DEGREES C.
* NOT ALL PARAMETERS TRACK
* THOSE OF THE REAL PART WITH
* TEMPERATUE.
*
* END NOTES PA86 MODEL
*
* PINOUT ORDER +IN -IN IL OUT +VS -VS CR+ CC+ CR- CC-
* PINOUT ORDER  7   6   1  2   12  4   8   11  10  3
.SUBCKT PA86 7 6 1 2 12 4 8 11 10 3
X1 13 13 4 NS
X2 14 15 12 PM
X5 16 16 4 QR
X6 17 18 DZ
X7 19 19 13 NS
X8 20 20 19 NS
X9 12 20 21 NS
X10 22 23 14 PM
X11 15 15 12 PM
X12 23 23 15 PM
X13 22 22 24 NS
X14 24 24 16 NS
X15 23 22 25 NS
X16 25 24 26 NS
X18 27 15 12 PM
X19 28 23 27 PM
X20 28 28 4 NS
X21 29 28 4 NS
X22 30 30 4 NS
X23 10 30 4 NS
X24 31 28 4 NS
X25 30 29 32 PM
X26 10 31 33 PM
X27 29 29 34 PM
X28 31 31 35 PM
X29 12 6 34 NS
X30 36 6 33 NS
X31 8 37 32 NS
X32 12 37 35 NS
X33 36 36 12 PM
X34 8 36 12 PM
X35 36 36 12 Q
X36 6 6 38 Q
X37 37 37 39 Q
X38 36 36 12 Q
X39 36 36 12 Q
X42 8 8 12 Q4
X45 4 4 10 Q4
X48 11 40 41 PM6
X49 3 42 11 PM
X52 3 43 4 NS4
X53 10 44 4 NL
X56 11 11 45 Q
X57 11 11 45 Q
X58 45 45 46 Q
X59 45 45 46 Q
X60 46 46 3 Q
X61 46 46 3 Q
X66 18 1 2 Q5
X71 47 1 2 QP5
X72 48 47 DZ
X73 49 48 DZ
X74 3 49 DZ
X75 17 18 DZ
X76 17 18 DZ
X77 17 18 DZ
X78 12 17 1 NL8
X86 50 51 1 PM7
X93 1 50 4 NL8
X101 52 50 DZ
X102 53 53 4 Q
X103 54 1 DZ
X104 55 55 51 Q
X105 56 17 DZ
X106 57 57 1 Q
R47 20 12 R47M 2E6 
.MODEL R47M R (TC1=-3.3E-3)
R48 4 26 R48M 10.313E3 
.MODEL R48M R (TC1=-2E-4)
R49 39 38 R49M 505 
.MODEL R49M R (TC1=-2E-4)
R50 58 11 100E3
R51 3 58 R51M 150E3 
.MODEL R51M R (TC1=-3.3E-3)
R52 4 44 R52M 2020 
.MODEL R52M R (TC1=-2E-4)
R53 4 50 R53M 505 
.MODEL R53M R (TC1=-2E-4)
X107 53 52 DZ
X108 55 54 DZ
X109 57 56 DZ
X110 44 3 47 PM
D1 59 12 DZT
R55 41 12 125
I1 4 12 100E-6
R56 11 17 R56M 10 
.MODEL R56M R (TC1=-7E-3)
R57 3 51 R57M 10 
.MODEL R57M R (TC1=-9E-3)
I2 11 17 -0.025
I3 3 51 0.025
R58 8 59 R58M 10 
.MODEL R58M R (TC1=-16E-3)
I4 8 59 0.02
V17 59 40 0.2
E97 60 61 62 0 0.15
R62 62 63 1E6
R63 0 62 100
C23 63 62 1E-12
E98 63 0 12 0 1
R64 61 60 1E9
E99 61 64 65 0 0.35
R65 65 66 1E6
R66 0 65 100
C24 66 65 1E-12
E100 66 0 4 0 1
R67 64 61 1E9
E101 64 67 68 0 0.35
R68 68 69 1E6
R69 0 68 100
C25 69 68 1E-12
E102 69 0 70 0 1
R70 67 64 1E9
E103 67 7 71 72 6.5
D2 71 0 DVN
I5 0 71 100E-6
D3 72 0 DVN
I6 0 72 100E-6
R71 7 67 1E9
E104 73 0 37 0 1
E105 74 0 6 0 1
R72 70 73 1E3
R73 70 74 1E3
V20 75 43 0.1
C27 8 11 0.1E-12
C28 10 3 0.1E-12
C29 6 0 1.5E-12
C30 7 0 1.5E-12
V21 58 42 0.1
G2 12 4 76 0 0.25E-6
E106 77 76 12 4 1
V22 77 0 350
R75 0 76 1E6
R76 0 77 1E6
R77 0 76 1E6
V23 37 60 2E-3
R78 40 12 1E12
R79 4 43 1E12
R81 42 11 1E9
I7 21 22 10E-6
R82 10 75 R82M 10 
.MODEL R82M R (TC1=10E-3)
I8 10 75 0.02
.ENDS PA86
.SUBCKT Q C B E
Q1 C B E QM
.MODEL QM NPN
+ BF=120 IS=2E-16
+ XTI=5.3 XTB=2.5
DR1 N90 B DZ3
V9 E N90 14
.MODEL DZ3 D
.ENDS Q
.SUBCKT Q4 C B E
Q1 C B E Q4M 4
.MODEL Q4M NPN
+ BF=120 XTI=5.3
+ XTB=2.5 IS=2E-16
DR1 N90 B DZ3
V9 E N90 14
.MODEL DZ3 D
.ENDS Q4
.SUBCKT Q5 C B E
Q1 C B E Q5M 5
.MODEL Q5M NPN
+ BF=120 XTI=5.3
+ XTB=2.5 IS=2E-15
.ENDS Q5
.SUBCKT QR C B E
Q1 C B E QRM
.MODEL QRM NPN
+ BF=1250 XTI=5.3 XTB=2.2
+ IS=20E-15 RE=2 RC=10
.ENDS QR
.SUBCKT QP5 C B E
Q1 C B E QP5M 5
DE E B DQ 5
.MODEL QP5M PNP
+ BF=900 XTI=5.3 XTB=2.2 IS=9E-17
.MODEL DQ D
+ IS=7E-16 N=1.2
+ RS=9E5 EG=1.031 XTI=0.47
.ENDS QP5
.SUBCKT DZ 1 2
RS 1 3 RSM 68 
.MODEL RSM R (TC1=6E-4)
D1 3 6 DZ1
RF 2 4 RFM 5 
.MODEL RFM R (TC1=-7E-3)
D2 1 5 DZ2
V1 4 5 -0.2
RT 6 7 RTM 10 
.MODEL RTM R (TC1=2.75E-3)
I1 6 7 0.02
V2 7 2 0.12
.MODEL DZ1 D BV=4.89 RS=1 IBV=50E-6 IS=1E-16 N=0.8 XTI=4 EG=0.5
.MODEL DZ2 D RS=0.1 IS=1E-17 N=0.8 EG=0.9
.ENDS DZ
.SUBCKT NS D G S
M1 D1 G2 S S NSM L=4E-6 W=0.740E-3 NRD=0.01 NRS=0.01
R1 D D1 R1M 990 
.MODEL R1M R (TC1=8E-3)
C1 D G2 3E-13
D1 S D DMM
RG G G2 100
.MODEL DMM D
+IS=2.0E-14 RS=2 N=1 XTI=3 CJO=6.0E-13
+M=0.5 VJ=0.5 TT=8E-6
.MODEL NSM NMOS LEVEL=1 KP=1.06U VTO=0.65 LAMBDA=1E-3
+CGSO=1E-9 CGDO=1E-11 RS=10
.ENDS NS
.SUBCKT NS4 D G S
M1 D1 G2 S S NS4M L=4.0E-06 W=2.96E-03 NRD=0.01 NRS=0.01
R1 D D1 R1M 248 
.MODEL R1M R (TC1=8E-3)
C1 D G2 12E-13
D1 S D DNM
RGG G G2 25
.MODEL DNM D
+IS=2.8E-14 RS=0.5 N=1 XTI=3 CJO=24E-13
+M=0.5 VJ=0.5 TT=8E-6
.MODEL NS4M NMOS LEVEL=1 KP=1.06U VTO=0.65 LAMBDA=1E-3
+CGSO=1E-9 CGDO=1E-11 RS=2.5
.ENDS NS4
.SUBCKT NL D G S
M1 D1 G2 S S NLM L=3E-6 W=5E-03 NRD=0.01 NRS=0.01
R1 D D1 R1M 264 
.MODEL R1M R (TC1=7E-3)
C1 D G2 1.0E-12
D1 S D DOM
RGG G G2 100
.MODEL DOM D
+IS=1E-13 RS=2 N=1 XTI=3 CJO=2.6E-12
+M=0.5 VJ=0.5 TT=8E-6
.MODEL NLM NMOS LEVEL=1 KP=3.2U VTO=0.65 LAMBDA=1E-3
+CGSO=1E-9 CGDO=1E-11 RS=2.5
.ENDS NL
.SUBCKT NL8 D G S
M1 D1 G2 S S NL8M L=3E-6 W=4E-2 NRD=0.01 NRS=0.01
R1 D D1 R1M 33 
.MODEL R1M R (TC1=7E-3)
C1 D G2 8E-12
DM S D DMM
RGG G G2 12
.MODEL DMM D
+IS=2E-13 RS=0.25 XTI=3 CJO=21E-12
+M=0.48 TT=8E-6
.MODEL NL8M NMOS LEVEL=1 KP=3.2U VTO=0.65 LAMBDA=1E-3
+CGSO=1E-9 CGDO=1E-11 RS=0.5
.ENDS NL8
.SUBCKT PM D G S
M1 D1 G2 S S PMM W=370U L=14U AD=5.3E-09
RD D1 D RDM 6200 
.MODEL RDM R (TC1=1E-4)
RGG G G2 100
.MODEL PMM PMOS LEVEL=1 KP=4U VTO=-0.65 LAMBDA=1E-4
+CGSO=1E-9 CGDO=1E-11 RS=62
.ENDS PM
.SUBCKT PM6 D G S
M1 D1 G2 S S PM6M W=2220U L=14U AD=3.2E-8
RD D1 D RDM 1033 
.MODEL RDM R (TC1=8E-3)
RGG G G2 15
.MODEL PM6M PMOS LEVEL=1 KP=4U VTO=-0.65 LAMBDA=1E-4
+CGSO=1E-9 CGDO=1E-11 RS=10
.ENDS PM6
.SUBCKT PM7 D G S
M1 D1 G2 S S PM7M W=2590U L=14U AD=3.7E-8
RD D1 D RDM 886 
.MODEL RDM R (TC1=8E-3)
RGG G G2 14
.MODEL PM7M PMOS LEVEL=1 KP=4U VTO=-0.65 LAMBDA=1E-4
+CGSO=1E-9 CGDO=1E-11 RS=8
.ENDS PM7
.MODEL DZT D BV=80 IBV=1E-3 RS=1
.MODEL DVN D KF=5E-16
* END PA86 BERKELEY MODEL
***********
